US09260418B2
To a solution of 1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde (0.413 g, 2.83 mmol) in 5 mL of DMF under an atmosphere of nitrogen was added sodium hydride (74.6 mg, 3.11 mmol). After 5 min, iodoethane (0.529 g, 3.39 mmol) was added. After 30 min, the reaction was treated with saturated aqueous ammonium chloride, diluted with water, and extracted 2× with dichloromethane. The combined organic solution was washed 3× with water, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-25% ethyl acetate in hexanes to provide 1-ethyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 175.2.

reactant | 1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | 2.83 mmol, 0.413 g | N1C=CC2=C1N=CC=C2C=O | C8H6N2O
reactant | sodium hydride | 3.11 mmol, 74.6 mg | [H-].[Na+]
reactant | iodoethane | 3.39 mmol, 0.529 g | ICC | C2H5I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-ethyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | C(C)N1C=CC2=C1N=CC=C2C=O | C10H10N2O
